US09126970B2
Step b): Bisbiphenyl-4-yl-[4′-(12,12-dimethyl-12H-10-azaindeno[2,1-b]-fluoren-10-yl)biphenyl-4-yl]amine
10 g (19.4 mmol) of 10-(4′-bromobiphenyl-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene are dissolved in 300 ml of toluene with 9.6 g (30 mmol) of bis(4-biphenylyl)amine and degassed. 1.94 ml (1.94 mmol/1 M in toluene) of tri-tert-butylphosphine, 252 mg of Pd(OAc)2 and 4.1 g (41.7 mmol) of NaOt-Bu are added, and the mixture is stirred under reflux for 10 h. The mixture is filtered through Alox B (activity grade 1), washed with water, dried and evaporated. The crude product is extracted with toluene in a Soxhlet extractor, recrystallised from toluene/heptane, giving 6.7 g (8.9 mmol, 46%) of the product as a yellow solid. Finally, the product is sublimed in a high vacuum, the purity is 99.9%.

reactant | 10-(4′-bromobiphenyl-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 19.4 mmol, 10 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C | C33H24BrN
reactant | bis(4-biphenylyl)amine | 30 mmol, 9.6 g | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N
reactant | tri-tert-butylphosphine | 1.94 mmol, 1 M, 1.94 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaOt-Bu | 41.7 mmol, 4.1 g | CC(C)(C)[O-].[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 252 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Bisbiphenyl-4-yl-[4′-(12,12-dimethyl-12H-10-azaindeno[2,1-b]-fluoren-10-yl)biphenyl-4-yl]amine | 8.9 mmol, 6.7 g, 46% | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C57H42N2
